US07049310B2
c) Methyl 1-methyl-3-(methylaminomethyl)-1H-indole-7-carboxylate
According to the procedure of Preparation 12, except substituting 1-methyl-7-methoxycarbonyl-1H-indole 3-carboxaldehyde for the 2-methylindole-3-carboxaldehyde, the title compound (1.7 g, 92%) was obtained as an oil: MS (ES) m/e 233.2 (M+H)+.

reactant | 1-methyl-7-methoxycarbonyl-1H-indole 3-carboxaldehyde | CN1C=C(C2=CC=CC(=C12)C(=O)OC)C=O | C12H11NO3
reactant | 2-methylindole-3-carboxaldehyde | CC=1NC2=CC=CC=C2C1C=O | C10H9NO
product | Methyl 1-methyl-3-(methylaminomethyl)-1H-indole-7-carboxylate | 1.7 g, 92% | CN1C=C(C2=CC=CC(=C12)C(=O)OC)CNC | C13H16N2O2
